US04550070
15.3 g of p-nitrophenylhydrazine and 10.1 g of triethylamine were dissolved in 100 ml of acetonitrile, and 7.9 g of acetyl chloride was added dropwise over 15 minutes with cooling with water. After conclusion of the addition, the mixture was stirred at 25° C. for 1 hour and thereafter 100 ml of water as added thereto. The precipitated crystals were filtered off, and washed with acetonitrile to obtain 16.6 g of 1-acetyl-2-(4-nitrophenyl)hydrazine. Yield: 16.6 g. Melting point: 209°-214° C.

reactant | p-nitrophenylhydrazine | 15.3 g | [N+](=O)([O-])C1=CC=C(C=C1)NN | C6H7N3O2
reactant | triethylamine | 10.1 g | C(C)N(CC)CC | C6H15N
reactant | acetyl chloride | 7.9 g | C(C)(=O)Cl | C2H3ClO
reactant | water | O | H2O
reactant | water | 100 ml | O | H2O
solvent | acetonitrile | 100 ml | C(C)#N | C2H3N
product | 1-acetyl-2-(4-nitrophenyl)hydrazine | 16.6 g | C(C)(=O)NNC1=CC=C(C=C1)[N+](=O)[O-] | C8H9N3O3
